US08168642B2
10 mmol 2-chloro-4-cyanothiazole was dissolved in 10 ml anhydrous methanol, and 10 mmol sodium methoxide was added. Upon complete reaction of the starting materials, 20 mmol ammonium chloride was added, to carry out reaction in closed state for 12 hr. The reaction product was filtered to remove inorganic salt, and then the resultant filtrate was concentrated to obtain 2-chloro-4-thiazolformamidine hydrochloride.

reactant | 2-chloro-4-cyanothiazole | 10 mmol | ClC=1SC=C(N1)C#N | C4HClN2S
reactant | sodium methoxide | 10 mmol | C[O-].[Na+]
reactant | ammonium chloride | 20 mmol | [Cl-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-chloro-4-thiazolformamidine hydrochloride | Cl.ClC=1SC=C(N1)C(=N)N | InChI=1S/C4H4ClN3S.ClH/c5-4-8-2(1-9-4)3(6)7;/h1H,(H3,6,7);1H
